Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11]>>[C:5]([H:6])#[C:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2]([H:3])=[O:4],-1.82724810781
[H:1][C:2]1[C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]1([H:15])[H:16]>>[H:1]/[C:2](=[C:8](/[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([C:6](=[C:3]([H:4])[H:5])[H:7])([H:15])[H:16],-2.66172227741
[O:1]=[C:2]([H:3])[C:13]([C:10]([C:7]([C:4]([H:5])[H:6])([H:8])[H:9])([H:11])[H:12])([H:14])[H:15]>>[O:1][C:2]1([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]1([H:14])[H:15],-0.19999998269
[C:4]([H:5])#[C:6].[H:1][C:2]=[C:3]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-6.26535486694
[O:1]=[C:2]([H:3])[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:2]([H:3])=[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[H:10].[O:1],6.0337716739400005
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:4],4.48680880427
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10]>>[H:10].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9],1.95337099503
[C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][C:2]([H:3])[O:4][C:5]#[C:6]>>[H:1][C:2]([H:3])[O:4][C:5]#[C:6][C:7]([H:8])=[C:9]([H:10])[H:11],-5.41123579417
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][C:11]([H:12])[H:13]>>[C:10]=[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9],6.86958022674
[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11].[H:1][C:2][H:3],5.45519424586
[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7]=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]=[C:3]([H:4])[C:5](=[C:7]=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:6],1.5763721024
[H:1]/[C:2](=[C:3]\[O:4][C:5]([H:6])([H:7])[H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:2](#[C:3][O:4][C:5]([H:6])([H:7])[H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1],2.67278997017
[C:8]([H:9])[H:10].[H:1][O:2][C:3]([H:4])([C:5]#[C:6][H:7])[O:11][H:12]>>[H:1][O:2][C:3]([H:4])([C:5][C:6]([H:7])=[C:8]([H:9])[H:10])[O:11][H:12],-3.34835438519
[C:3]([O:4][H:5])#[C:6][H:7].[H:1][C:2]=[C:8]([H:9])[H:10]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])=[C:8]([H:9])[H:10],-2.35027023998
[H:1][O:2][C:3]([H:4])([C:5]#[C:6][C:7]([H:8])[H:9])[O:10][H:11]>>[H:1][O:2][C:3]([C:5]#[C:6][C:7]([H:8])[H:9])[O:10][H:11].[H:4],2.27458731035
[C:11]([H:12])[H:13].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],-7.64945428518
[H:1][C:2]([H:3])([H:4])[C:5]1[O:6][C:7][O:8][C:9]1([H:10])[H:11]>>[H:1][C:2]([H:3])([H:4])[C:5]([O:6][C:7]=[O:8])=[C:9]([H:10])[H:11],-1.17410531295
[C:5]([H:6])([H:7])[H:8].[O:1][C:2](=[C:3]=[O:4])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([C:3](=[O:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-3.71315296328
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[C:7]#[C:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]=[C:4]([H:5])[H:6],3.92485745188
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11]>>[H:11].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]#[C:9][H:10],2.41850764868
[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[H:8]>>[H:1][C:2][O:3][C:4]=[C:5]([H:6])[H:7].[H:8],2.3650792179599995
[H:1][O:2][C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9]>>[H:1][O:2][C:3][O:4][C:5]([H:6])=[C:7][H:8].[H:9],5.1212593921
[C:1]#[C:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:1](=[C:2]=[C:7]([H:8])[C:9]([H:10])[H:11])([H:5])[H:6].[C:3]#[C:4],5.46000987561
[H:1][O:2][C:3]([H:4])(/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11])[O:12][H:13]>>[H:1][O:2][C:3]([H:4])([C:5]#[C:6][C:8]([H:9])([H:10])[H:11])[O:12][H:13].[H:7],1.9272720319
[C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3][C@:4]([H:5])([O:6])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3][C@@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.41013282847
[C:1]=[C:2]([H:3])[C:4](=[C:5])[C:6]([H:7])=[C:8]([H:9])[H:10]>>[C:1]#[C:5][H:3].[C:2]#[C:4][C:6]([H:7])=[C:8]([H:9])[H:10],2.4798113914
[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-1.50892908593
[C:6]([H:7])[H:8].[O:1]=[C:2]([H:3])[C:4](=[O:5])[C:9]([H:10])[H:11]>>[O:1]=[C:2]([H:3])[C:4]([O:5][C:6]([H:7])[H:8])=[C:9]([H:10])[H:11],-4.1552036930300025
[H:1][C:2][C:3]1=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]1[H:12]>>[H:1][C:2]#[C:11][C:9]([C:6]([C:4](=[C:3][H:12])[H:5])([H:7])[H:8])[H:10],1.34883147368
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:7]([O:8][H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6],2.99590465206
